US07674809B2
4b) 2-pentyl-6-nitrobenzothiazole
2-Pentylbenzothiazole hydrochloride (20.5 g, 0.084 mol) is added, at 0° C., to trifluoromethanesulfonic acid (44.6 ml 0.504 mol) and 100% nitric acid (10.6 ml, 0.215 mol) in methylene chloride (270 ml), and the mixture is stirred at 0° C. for 1.5 hours and at room temperature for one hour. Water (150 ml) is added dropwise and the phases are separated. The organic phase is washed with 0.5M NaHCO3 and with water. The resulting solution is dried, filtered and concentrated. The solid obtained is recrystallized from petroleum ether. Yield: 10.6 g (50%); Rf (8/2 petroleum ether/ethyl acetate): 0.71; 1H-NMR (d6-DMSO) 9.05 (d, 1H); 8.25 (dd, 1H); 8.15 (d, 1H); 3.13 (t, 2H); 1.28-1.36 (m, 4H); 0.85 (t, 3H).

reactant | 2-Pentylbenzothiazole hydrochloride | 0.084 mol, 20.5 g | Cl.C(CCCC)C=1SC2=C(N1)C=CC=C2
reactant | trifluoromethanesulfonic acid | 0.504 mol, 44.6 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | nitric acid | 0.215 mol, 10.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | Water | 150 ml | O | H2O
solvent | methylene chloride | 270 ml | C(Cl)Cl | CH2Cl2
product | 2-pentyl-6-nitrobenzothiazole | C(CCCC)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C12H14N2O2S
